US04921982
5-Chloro-4-methoxy-2,2-dimethyl-2,3-dihydro-7-benzofurancarboxylic acid
Following the same procedure, 19.9 g of methyl 4-amino-2,2-dimethyl-2,3-dihydro-7-benzofurancarboxylate was transformed into 20.1 g of 4-amino-5-chloro-2,2-dimethyl-2,3-dihydro-7-benzofurancarboxylic acid, m.p. 176°-178° C.

reactant | methyl 4-amino-2,2-dimethyl-2,3-dihydro-7-benzofurancarboxylate | 19.9 g | NC1=CC=C(C2=C1CC(O2)(C)C)C(=O)OC | C12H15NO3
reactant | 4-amino-5-chloro-2,2-dimethyl-2,3-dihydro-7-benzofurancarboxylic acid | 20.1 g | NC1=C(C=C(C2=C1CC(O2)(C)C)C(=O)O)Cl | C11H12ClNO3
product | 5-Chloro-4-methoxy-2,2-dimethyl-2,3-dihydro-7-benzofurancarboxylic acid | ClC=1C=C(C2=C(CC(O2)(C)C)C1OC)C(=O)O | C12H13ClO4
